US09125901B2
Isopropylamine (3 mL) is added to a solution of 4-bromo-1-fluoro-2-nitrobenzene (700 mg, 3.18 mmol) in ethanol. The reaction may be stirred for an appropriate time at an appropriate temperature, such as room temperature for overnight and concentrated. The residue may be purified by any appropriate method such as Biotage column chromatography to give 4-bromo-N-isopropyl-2-nitroaniline (770 mg).

reactant | Isopropylamine | 3 mL | C(C)(C)N | C3H9N
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 3.18 mmol, 700 mg | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
solvent | ethanol | C(C)O | C2H6O
product | 4-bromo-N-isopropyl-2-nitroaniline | 770 mg | BrC1=CC(=C(NC(C)C)C=C1)[N+](=O)[O-] | C9H11BrN2O2
